US07960394B2
(1) Production of 2-amino-N,3-dimethylbenzamide:
3-Methyl-2-aminobenzoic acid (3.43 g, 22.7 mmol) and N,N′-carbonyldiimidazole (4.05 g, 24.9 mmol) were stirred in THF at 40° C. for 3 hours. After cooled to room temperature, methylamine (2.0 M in THF, 22.7 ml) was added thereto, and further stirred for 1 hour at room temperature. The solvent was evaporated off under reduced pressure, and the residue was purified through silica gel column chromatography (chloroform/methanol=9/1) to obtain the intended compound (3.43 g, yield 92%) as a milky white solid.

reactant | 3-Methyl-2-aminobenzoic acid | 22.7 mmol, 3.43 g | CC=1C(=C(C(=O)O)C=CC1)N | C8H9NO2
reactant | methylamine | 2.0 M, 22.7 ml | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | 2-amino-N,3-dimethylbenzamide | 3.43 g, yield 92% | NC1=C(C(=O)NC)C=CC=C1C | C9H12N2O
